US07427613B2
[2-(2-Methoxyphenyl)ethyl]amine
Synthesized according to typical procedures C and D from 2-methoxyphenylacetic acid and methylamine.

reactant | 2-methoxyphenylacetic acid | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | methylamine | CN | CH5N
product | [2-(2-Methoxyphenyl)ethyl]amine | COC1=C(C=CC=C1)CCN | C9H13NO
